**************************************************
* Manufacturer:          Würth Elektronik 
* Kinds:                 SMD Flat Wire High Current Inductor
* Matchcode:             WE-HCIA
* Library Type:          Pspice
* Version:               rev22c
* Created/modified by:   Ella
* Date and Time:         2022-11-15
* Team:                  eiSos EDA Service  
* Contact:               libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt HCIA_1050_7843250072_0u72 1 2
Rp 1 2 463.339
Cp 1 2 3.29p
Rs 1 N3 0.00126
L1 N3 2 0.721u
.ends HCIA_1050_7843250072_0u72
*******
.subckt HCIA_1050_784325012_1u2 1 2
Rp 1 2 653.501
Cp 1 2 4.043p
Rs 1 N3 0.00186
L1 N3 2 1.076u
.ends HCIA_1050_784325012_1u2
*******
.subckt HCIA_1050_784325018_1u8 1 2
Rp 1 2 967.647
Cp 1 2 4.175p
Rs 1 N3 0.003
L1 N3 2 1.666u
.ends HCIA_1050_784325018_1u8
*******
.subckt HCIA_1050_784325024_2u4 1 2
Rp 1 2 1345
Cp 1 2 3.582p
Rs 1 N3 0.0049
L1 N3 2 2.34u
.ends HCIA_1050_784325024_2u4
*******
.subckt HCIA_1050_784325033_3u3 1 2
Rp 1 2 1628
Cp 1 2 4.811p
Rs 1 N3 0.0052
L1 N3 2 3.052u
.ends HCIA_1050_784325033_3u3
*******
.subckt HCIA_1050_784325042_4u2 1 2
Rp 1 2 2023
Cp 1 2 5.103p
Rs 1 N3 0.0071
L1 N3 2 3.887u
.ends HCIA_1050_784325042_4u2
*******
.subckt HCIA_1050_784325055_5u2 1 2
Rp 1 2 2383
Cp 1 2 5.366p
Rs 1 N3 0.0086
L1 N3 2 4.812u
.ends HCIA_1050_784325055_5u2
*******
.subckt HCIA_1050_784325065_6u5 1 2
Rp 1 2 2843
Cp 1 2 5.988p
Rs 1 N3 0.0105
L1 N3 2 6.051u
.ends HCIA_1050_784325065_6u5
*******
.subckt HCIA_1050_784325078_7u8 1 2
Rp 1 2 3201
Cp 1 2 6.36p
Rs 1 N3 0.0131
L1 N3 2 7.486u
.ends HCIA_1050_784325078_7u8
*******
.subckt HCIA_1050_784325100_10u 1 2
Rp 1 2 4339
Cp 1 2 5.969p
Rs 1 N3 0.021
L1 N3 2 9.57u
.ends HCIA_1050_784325100_10u
*******
.subckt HCIA_1050_784325160_16u7 1 2
Rp 1 2 6090
Cp 1 2 5.682p
Rs 1 N3 0.0345
L1 N3 2 16.881u
.ends HCIA_1050_784325160_16u7
*******
.subckt HCIA_7050_7843140047_0u47 1 2
Rp 1 2 335
Cp 1 2 0.75p
Rs 1 N3 0.00135
L1 N3 2 0.392u
.ends HCIA_7050_7843140047_0u47
*******
.subckt HCIA_7050_784314011_1u1 1 2
Rp 1 2 624
Cp 1 2 1.172p
Rs 1 N3 0.00315
L1 N3 2 0.998u
.ends HCIA_7050_784314011_1u1
*******
.subckt HCIA_7050_784314033_3u3 1 2
Rp 1 2 1464
Cp 1 2 1.854p
Rs 1 N3 0.009
L1 N3 2 2.899u
.ends HCIA_7050_784314033_3u3
*******
.subckt HCIA_7050_784314049_4u9 1 2
Rp 1 2 2179
Cp 1 2 1.495p
Rs 1 N3 0.0145
L1 N3 2 4.13u
.ends HCIA_7050_784314049_4u9
*******
.subckt HCIA_7050_784314065_6u5 1 2
Rp 1 2 3060
Cp 1 2 1.686p
Rs 1 N3 0.0215
L1 N3 2 5.988u
.ends HCIA_7050_784314065_6u5
*******
.subckt HCIA_7050_784314100_10u 1 2
Rp 1 2 3970
Cp 1 2 1.69p
Rs 1 N3 0.033
L1 N3 2 8.728u
.ends HCIA_7050_784314100_10u
*******
