**************************************************
* Manufacturer:           Würth Elektronik
* Kinds:                  SMD Flat Wire High Current Inductor
* Matchcode:              WE-HCIA
* Library Type:           Pspice
* Version:                rev24a
* Created/modified by:    Ella
* Date and Time:          11/27/2024
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2024 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt HCIA_1050_7843250072_0u72 1 2
Rp 1 2 463.339
Cp 1 2 3.29p
Rs 1 N3 0.00126
L1 N3 2 0.721u
.ends HCIA_1050_7843250072_0u72
*******
.subckt HCIA_1050_784325012_1u2 1 2
Rp 1 2 653.501
Cp 1 2 4.043p
Rs 1 N3 0.00186
L1 N3 2 1.076u
.ends HCIA_1050_784325012_1u2
*******
.subckt HCIA_1050_784325018_1u8 1 2
Rp 1 2 967.647
Cp 1 2 4.175p
Rs 1 N3 0.003
L1 N3 2 1.666u
.ends HCIA_1050_784325018_1u8
*******
.subckt HCIA_1050_784325024_2u4 1 2
Rp 1 2 1345
Cp 1 2 3.582p
Rs 1 N3 0.0049
L1 N3 2 2.34u
.ends HCIA_1050_784325024_2u4
*******
.subckt HCIA_1050_784325033_3u3 1 2
Rp 1 2 1628
Cp 1 2 4.811p
Rs 1 N3 0.0052
L1 N3 2 3.052u
.ends HCIA_1050_784325033_3u3
*******
.subckt HCIA_1050_784325042_4u2 1 2
Rp 1 2 2023
Cp 1 2 5.103p
Rs 1 N3 0.0071
L1 N3 2 3.887u
.ends HCIA_1050_784325042_4u2
*******
.subckt HCIA_1050_784325055_5u2 1 2
Rp 1 2 2383
Cp 1 2 5.366p
Rs 1 N3 0.0086
L1 N3 2 4.812u
.ends HCIA_1050_784325055_5u2
*******
.subckt HCIA_1050_784325065_6u5 1 2
Rp 1 2 2843
Cp 1 2 5.988p
Rs 1 N3 0.0105
L1 N3 2 6.051u
.ends HCIA_1050_784325065_6u5
*******
.subckt HCIA_1050_784325078_7u8 1 2
Rp 1 2 3201
Cp 1 2 6.36p
Rs 1 N3 0.0131
L1 N3 2 7.486u
.ends HCIA_1050_784325078_7u8
*******
.subckt HCIA_1050_784325100_10u 1 2
Rp 1 2 4339
Cp 1 2 5.969p
Rs 1 N3 0.021
L1 N3 2 9.57u
.ends HCIA_1050_784325100_10u
*******
.subckt HCIA_1050_784325160_16u7 1 2
Rp 1 2 6090
Cp 1 2 5.682p
Rs 1 N3 0.0345
L1 N3 2 16.881u
.ends HCIA_1050_784325160_16u7
*******
.subckt HCIA_7050_7843140047_0u47 1 2
Rp 1 2 335
Cp 1 2 0.75p
Rs 1 N3 0.00135
L1 N3 2 0.392u
.ends HCIA_7050_7843140047_0u47
*******
.subckt HCIA_7050_784314011_1u1 1 2
Rp 1 2 624
Cp 1 2 1.172p
Rs 1 N3 0.00315
L1 N3 2 0.998u
.ends HCIA_7050_784314011_1u1
*******
.subckt HCIA_7050_784314033_3u3 1 2
Rp 1 2 1464
Cp 1 2 1.854p
Rs 1 N3 0.009
L1 N3 2 2.899u
.ends HCIA_7050_784314033_3u3
*******
.subckt HCIA_7050_784314049_4u9 1 2
Rp 1 2 2179
Cp 1 2 1.495p
Rs 1 N3 0.0145
L1 N3 2 4.13u
.ends HCIA_7050_784314049_4u9
*******
.subckt HCIA_7050_784314065_6u5 1 2
Rp 1 2 3060
Cp 1 2 1.686p
Rs 1 N3 0.0215
L1 N3 2 5.988u
.ends HCIA_7050_784314065_6u5
*******
.subckt HCIA_7050_784314100_10u 1 2
Rp 1 2 3970
Cp 1 2 1.69p
Rs 1 N3 0.033
L1 N3 2 8.728u
.ends HCIA_7050_784314100_10u
*******
.subckt HCIA_7030_7843100055_0u52 1 2
Rp 1 2 388.13
Cp 1 2 1.529p
Rs 1 N3 0.0034
L1 N3 2 0.46184u
.ends HCIA_7030_7843100055_0u52
*******
.subckt HCIA_7030_7843100115_1u15 1 2
Rp 1 2 1051
Cp 1 2 2.475p
Rs 1 N3 0.0083
L1 N3 2 1.078u
.ends HCIA_7030_7843100115_1u15
*******
.subckt HCIA_7030_7843100150_1u5 1 2
Rp 1 2 1289
Cp 1 2 2.139p
Rs 1 N3 0.0122
L1 N3 2 1.43u
.ends HCIA_7030_7843100150_1u5
*******
.subckt HCIA_7030_7843100200_2u 1 2
Rp 1 2 1237
Cp 1 2 1.753p
Rs 1 N3 0.0145
L1 N3 2 1.875u
.ends HCIA_7030_7843100200_2u
*******
.subckt HCIA_7040_7843110022_0u22 1 2
Rp 1 2 234.051
Cp 1 2 0.863212p
Rs 1 N3 0.0011
L1 N3 2 0.218484u
.ends HCIA_7040_7843110022_0u22
*******
.subckt HCIA_7040_7843110068_0u68 1 2
Rp 1 2 506.656
Cp 1 2 1.404p
Rs 1 N3 0.003
L1 N3 2 0.616415u
.ends HCIA_7040_7843110068_0u68
*******
.subckt HCIA_7040_7843110100_1u 1 2
Rp 1 2 592.205
Cp 1 2 1.532p
Rs 1 N3 0.0042
L1 N3 2 0.927627u
.ends HCIA_7040_7843110100_1u
*******
.subckt HCIA_7040_7843110150_1u5 1 2
Rp 1 2 1089
Cp 1 2 2.064p
Rs 1 N3 0.0063
L1 N3 2 1.383u
.ends HCIA_7040_7843110150_1u5
*******
.subckt HCIA_7040_7843110220_2u2 1 2
Rp 1 2 1479
Cp 1 2 2.058p
Rs 1 N3 0.0106
L1 N3 2 2.146u
.ends HCIA_7040_7843110220_2u2
*******
.subckt HCIA_7040_7843110330_3u3 1 2
Rp 1 2 2048
Cp 1 2 2.251p
Rs 1 N3 0.0158
L1 N3 2 3.264u
.ends HCIA_7040_7843110330_3u3
*******
.subckt HCIA_7040_7843110470_4u7 1 2
Rp 1 2 2883
Cp 1 2 2.373p
Rs 1 N3 0.0172
L1 N3 2 4.215u
.ends HCIA_7040_7843110470_4u7
*******
